US06255307B1
2-Amino-6-(4-methyl-1-piperazinyl)-3-(2,3,5-trichlorophenyl)pyrazine
2-Amino-6-chloro-3-(2,3,5-trichlorophenyl)pyrazine (0.215 g ,7.0×10−3 mole) Example I Route A and 1-methylpiperazine (5 ml, Aldrich), were heated at 140° C. for 1 hr. The mixture was evaporated in vacuo and the residue was purified by ‘flash chromatography’ eluting with ethanol:dichloromethane, 0-4%. The product was dissolved in the minimum of dichloromethane and hexane (10 ml), added slowly to give yellow needles. Yield 0.247 g (95%), M.p. 185° C.

reactant | 2-Amino-6-chloro-3-(2,3,5-trichlorophenyl)pyrazine | 7.0×10−3 mole, 0.215 g | NC1=NC(=CN=C1C1=C(C(=CC(=C1)Cl)Cl)Cl)Cl | C10H5Cl4N3
reactant | 1-methylpiperazine | 5 ml | CN1CCNCC1 | C5H12N2
product | 2-Amino-6-(4-methyl-1-piperazinyl)-3-(2,3,5-trichlorophenyl)pyrazine | NC1=NC(=CN=C1C1=C(C(=CC(=C1)Cl)Cl)Cl)N1CCN(CC1)C | C15H16Cl3N5
